US04576957
N-[3-(1H-Imidazol-1-yl)propyl]-N'-[3-(trifluoromethyl)phenyl]urea
A 2.50 g. portion of 1H-imidazole-1-propanamine was added to 20 ml. of toluene. A solution of 3.7 g. of m-trifluoromethylphenyl isocyanate in 20 ml. of toluene was added and the mixture was stirred overnight, then evaporated to a syrup. This syrup was triturated twice with ether giving 4.95 g. of crystals. These crystals were dissolved in methylene chloride, hot ethyl acetate or a mixture of the two and passed through a silica gel column, developing with 200 ml. of ethyl acetate and discarding the 200 ml. fraction. The column was then eluted with 10% methanol in ethyl acetate, collecting three 200 ml. fractions. These fractions were combined and evaporated in vacuo, giving 4.33 g. of the desired product as colorless waxy crystals, mp 105°-108° C.

reactant | 1H-imidazole-1-propanamine | N1(C=NC=C1)CCCN | C6H11N3
reactant | m-trifluoromethylphenyl isocyanate | FC(C=1C=C(C=CC1)N=C=O)(F)F | C8H4F3NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-[3-(1H-Imidazol-1-yl)propyl]-N'-[3-(trifluoromethyl)phenyl]urea | N1(C=NC=C1)CCCNC(=O)NC1=CC(=CC=C1)C(F)(F)F | C14H15F3N4O
